US06500835B2
834 mg (2.05 mmol) of 4-benzyloxycarbonylamino-3-t-butoxycarbonylbenzenesulfonamide and 783 mg (2.05 mmol) of benzyl 4-chloro-2-N-phenoxycarbonylanthranilate were treated in the same way as in Preparation Example 17 to obtain 1.18 g (yield 83%) of benzyl 2-{[(4-benzyloxycarbonylamino-3-t-butoxycarbonylbenzenesulfonylamino)carbonyl]amino}-4-chlorobenzoate. Properties: colorless amorphous, PMR (δ ppm, CDCl3): 1.56 (9H, s), 5.22 (2H, s), 5.37 (2H, s), 7.04 (1H, dd), 7.33-7.42 (10H, m), 7.97 (1H, d), 8.14 (1H, d), 8.45 (1H, d), 8.60 (1H, d), 8.65 (1H, d), 11.01 (1H, s), 11.11 (1H, s).

reactant | 4-benzyloxycarbonylamino-3-t-butoxycarbonylbenzenesulfonamide | 2.05 mmol, 834 mg | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C=C1)S(=O)(=O)N)C(=O)OC(C)(C)C | C19H22N2O6S
reactant | benzyl 4-chloro-2-N-phenoxycarbonylanthranilate | 2.05 mmol, 783 mg | ClC=1C=C(C(C(=O)OCC2=CC=CC=C2)=CC1)NC(=O)OC1=CC=CC=C1 | C21H16ClNO4
product | benzyl 2-{[(4-benzyloxycarbonylamino-3-t-butoxycarbonylbenzenesulfonylamino)carbonyl]amino}-4-chlorobenzoate | 1.18 g, yield 83% | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C=C1)S(=O)(=O)NC(=O)NC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)Cl)C(=O)OC(C)(C)C | C34H32ClN3O9S
